US04507498
A mixture of 3.5 g (0.011 mole) of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester, 15.4 ml (0.11 mole) of 1,5-dibromopentane and 1.2 g (0.0087 mole) of anhydrous potassium carbonate in 60 ml of anhydrous acetone was stirred at reflux for 77 hours. During the reflux period additional 1.4 g portions of potassium carbonate were added at 4,21,28 and 45 hours. The solvent was removed in vacuo and the residue was purified by HPLC using 17% ethyl acetate-hexane to yield 4.35 g (84% yield) of 4-[4-acetyl-3-[(5-bromopentyl)oxy]-2-propylphenoxy]butanoic acid ethyl ester as an oil.

reactant | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester | 0.011 mole, 3.5 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C17H24O5
reactant | 1,5-dibromopentane | 0.11 mole, 15.4 ml | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 0.0087 mole, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 4-[4-acetyl-3-[(5-bromopentyl)oxy]-2-propylphenoxy]butanoic acid ethyl ester | 4.35 g, 84% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCCCBr)CCC)=O | C22H33BrO5
